US05010100
Lithium aluminum hydride (100 mg) was added to a solution of 1-(4-allyloxy-3-methoxy-5-methyl-thiophenyl)-4-(3,4,5-trimethoxyphenyl)-1,4-butanedione (1.0 g, 2.2 mmol) in tetrahydrofuran (10 ml) at 0° C. The mixture was stirred at room temperature for 0.5 hour and quenched with 2 N sodium hydroxide. The cake was filtered and washed with THF-Et2O (1:1, v/v). The combined filtrates were evaporated to give 1-(4-allyloxy-3-methoxy-5-methylthiophenyl)-4-(3,4,5-trimethoxyphenyl)-1,4- butanediol, which was used directly in the next experiment without further purification. The title compound had n.m.r. (CDCl3): δ 0.88 (b, CH2CH2), 2.43 (s, SCH3), 3.85, 3.86, 3.87 (3s, 4 OCH3), 4.54 (d, CH2CH=CH2), 4.72 (b, 2 CHOH), 5.22-5.45 (CH2CH=CH2), 6.16 (m, CH2CH-CH2), 6.60, 6.74 (2s, ArH).

reactant | Lithium aluminum hydride | 100 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(4-allyloxy-3-methoxy-5-methyl-thiophenyl)-4-(3,4,5-trimethoxyphenyl)-1,4-butanedione | 2.2 mmol, 1.0 g | C(C=C)OC=1C(=C(SC1C)C(CCC(=O)C1=CC(=C(C(=C1)OC)OC)OC)=O)OC | C22H26O7S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(4-allyloxy-3-methoxy-5-methylthiophenyl)-4-(3,4,5-trimethoxyphenyl)-1,4- butanediol | C(C=C)OC=1C(=C(SC1C)C(CCC(O)C1=CC(=C(C(=C1)OC)OC)OC)O)OC | C22H30O7S
